US08252820B2
A. 6-Bromo-3,4-difluoro-2-nitrophenol
To a round bottom flask containing 2-bromo-4,5-difluorophenol (2.7 g, 12.9 mmol) and ammonium nickel sulfate (2.6 g, 6.46 mmol) is added dichloromethane (15 mL) at RT. A solution of 70% nitric acid (1.2 ml) is added dropwise and the slurry is stirred for 20 to 30 min. The mixture is then quenched with excess MgSO4, filtered and concentrated. The product is used in the next step without purification.

reactant | 2-bromo-4,5-difluorophenol | 12.9 mmol, 2.7 g | BrC1=C(C=C(C(=C1)F)F)O | C6H3BrF2O
reactant | nitric acid | 1.2 ml | [N+](=O)(O)[O-] | HNO3
catalyst | ammonium nickel sulfate | 6.46 mmol, 2.6 g | S(=O)(=O)([O-])[O-].[Ni+].[NH4+]
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 6-Bromo-3,4-difluoro-2-nitrophenol | BrC1=CC(=C(C(=C1O)[N+](=O)[O-])F)F | C6H2BrF2NO3
